US07067540B2
5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-N-(2-hydroxy-2-methylpropyl)pyrazine-2-carboxamide
To a solution of 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylic acid (0.42 g, 0.9 mmol) in DMF (3.0 mL) was added isobutylchloroformate (0.126 g, 0.13 mmol) followed by the addition of N-methylmorpholine (0.11 g, 1.1 mmol) and stirred at −10° C., under argon atmosphere. After 20 min, added a solution of 1,1 dimethyl-2-aminoethanol hydrochloride (0.135 g, 1.1 mmol) in DMF (2.0 mL) containing N-methylmorpholine (0.11 g, 1.1 mmol). The mixture was stirred at room temperature for 1 h, and concentrated to dryness in vacuo. The resulting residue was purified by reverse-phase HPLC using 10-90% CH3CN/Water gradient (60 min) at a flow rate of 70 mL/min. The appropriate fractions (m/z=537 M+H) were combined and freeze dried to give a white powder. This was partitioned between 5% NaHCO3 (10 mL) and EtOAc (15 mL). The organic layer was washed with water, dried (Na2SO4), and concentrated to dryness to afford the title compound (0.35 g, 75%) as a white powder: 1H NMR (CD3OD/400 MHz) δ 9.1 (d, 1H, J=1.6 Hz), 8.71 (d, 1H, J=1.6 Hz), 7.61 (m 1H), 7.02 (m, 2H), 6.54 (s, 1H), 5.54 (s, 2H), 5.30 (s, 2 h). 3.30 (s, 2 h), 2.55 (s, 3H), and 1.21 (s, 6H); 19F NMR (CD3OD/400 MHz) −111.67 (m) and −116.05 (m); ES-HRMS m/z 537.0948 (M+H calcd for C23H24BrF2N4O4 requires 537.0943).

reactant | 5-{[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazine-2-carboxylic acid | 0.9 mmol, 0.42 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)C(=O)O)=O | C19H14BrF2N3O4
reactant | isobutylchloroformate | 0.13 mmol, 0.126 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-methylmorpholine | 1.1 mmol, 0.11 g | CN1CCOCC1 | C5H11NO
reactant | 1,1 dimethyl-2-aminoethanol hydrochloride | 1.1 mmol, 0.135 g | Cl.CC(CN)(O)C
reactant | N-methylmorpholine | 1.1 mmol, 0.11 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}-N-(2-hydroxy-2-methylpropyl)pyrazine-2-carboxamide | 0.35 g, 75% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC=1N=CC(=NC1)C(=O)NCC(C)(C)O)=O | C23H23BrF2N4O4
